US08530504B2
(1a) tert-Butyl[3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate
To a mixture of tert-butyl[3-bromo-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate (397 mg, 1.03 mmol), toluene (6.8 mL) and ethanol (3.4 mL) were added 2,6-dimethoxy-4-(methoxymethyl)phenylboric acid (349 mg, 1.55 mmol) synthesized by the method described in WO2004/037822, a 1M aqueous solution of sodium carbonate (2.06 mL, 2.06 mmol) and tetrakis(triphenylphosphine)palladium (119 mg, 0.10 mmol) in this order, and the mixture was heated to reflux at 110° C. for three hours. Water was added to the reaction mixture and then ethyl acetate was added. After thoroughly shaking the mixture, the organic layer was separated, and the organic layer was stirred at 75° C. for five hours. Chloroform was added to the reaction mixture, insoluble matters were filtered off, and then the solvent was distilled off under reduced pressure. The residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate: 33% then 66%) to obtain 450.9 mg (0.94 mmol) of the title compound.

reactant | tert-butyl[3-bromo-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate | 1.03 mmol, 397 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2Br)SC)C)=O | C12H16BrN3O2S2
reactant | toluene | 6.8 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2,6-dimethoxy-4-(methoxymethyl)phenylboric acid | 1.55 mmol, 349 mg | COC1=C(C(=CC(=C1)COC)OC)OB(O)O | C10H15BO6
reactant | sodium carbonate | 2.06 mmol, 2.06 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.10 mmol, 119 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | ethanol | 3.4 mL | C(C)O | C2H6O
product | tert-Butyl[3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate | 0.94 mmol, 450.9 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC(=C2C2=C(C=C(C=C2OC)COC)OC)SC)C)=O | C22H29N3O5S2
